US04880799
a. methyl (o-nitrobenzylthio)-acetate
A mixture of o-nitrobenzylchloride (17.2 g), methyl mercaptoacetate (8.9ml), and potassium carbonate (27.6 g) was refluxed with stirring in acetone (200 ml) for 6 hours. The reaction mixture was filtered and evaporated to leave the title compound as an oil.

reactant | o-nitrobenzylchloride | 17.2 g | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
reactant | methyl mercaptoacetate | 8.9ml | SCC(=O)OC | C3H6O2S
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | methyl (o-nitrobenzylthio)-acetate | [N+](=O)([O-])C1=C(CSCC(=O)OC)C=CC=C1 | C10H11NO4S
